US06569851B1
To a solution of 3-biphenylcarboxaldehyde (0.011 eq.) in 30 mL of methanol was added 10 eq. of 7N NH3/MeOH and NaCNBH4 (2 eq.). A yellow gum precipitated from solution. The solution was then heated at 60° C. until gum dissolved and the solution was stirred at room temperature overnight. The reaction mixture was then concentrated and the resulting residue diluted with ice water and ethyl acetate. The organic layer was then washed with brine and extracted with 5N HCl. The pH of the aqueous layer was then adjusted to 12 and the aqueous layer was extracted with cold ethyl acetate. The organic layer was dried over Na2SO4, filtered and concentrated to give 3-(phenyl)benzyl amine as an oil.

reactant | 3-biphenylcarboxaldehyde | 0.011 eq. | C1(=CC(=CC=C1)C=O)C1=CC=CC=C1 | C13H10O
reactant | NH3 MeOH | 7N, 10 eq. | N.CO
solvent | methanol | 30 mL | CO | CH4O
product | 3-(phenyl)benzyl amine | C1(=CC=CC=C1)C=1C=C(CN)C=CC1 | C13H13N
